US08497376B2
g) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide
2-(4,4-Dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine (as prepared in the previous step, 10.0 g, 0.029 mol) was coupled to 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid, potassium salt as described in Example 1, step (b) to obtain the title compound (15.8 g, 92%) after purification on silica gel (30-70% EtOAc-hexane) as a white solid: Mass spectrum (ESI, m/z): Calcd. for C33H49N5O3Si, 592.3 (M+H), found 592.4.

reactant | 2-(4,4-Dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine | CC1(CC=C(CC1)C1=NC(=CC=C1N)C1CC(OC(C1)(C)C)(C)C)C | C22H34N2O
reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid | C(#N)C=1N=C(N(C1)COCC[Si](C)(C)C)C(=O)O | C11H17N3O3Si
reactant | potassium | [K] | K
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid[2-(4,4-dimethyl-cyclohex-1-enyl)-6-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-yl]-amide | 15.8 g, 92% | CC1(CC=C(CC1)C1=NC(=CC=C1NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1CC(OC(C1)(C)C)(C)C)C | C33H49N5O3Si
